US07465795B2
4-amino-8-[3,5-bis(trifluoromethyl)phenyl]-N-propyl-cinnoline-3-carboxamide
Using method A, 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide (150 mg, 0.485 mmol) and 3,5-bis(trifluromethyl)phenylboronic acid (258 mg, 1.000 mmol) were reacted to afford the title compound 200 mg, 94% yield as an off-white solid. 1H NMR (300 MHz, CDCl3) δ 8.50 (br, 1H), 8.13 (s, 2H), 7.99-7.93 (m, 2H), 7.84-7.73 (m, 2H), 3.47 (apparent quartet, J=7.0 Hz, 2H), 1.68 (apparent sextet, J=7.0 Hz, 2H), 1.01 (t, J=7.0 Hz, 3H). MS APCI, m/z=443 (M+H). HPLC 2.85 min.

reactant | 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide | 0.485 mmol, 150 mg | NC1=C(N=NC2=C(C=CC=C12)Br)C(=O)NCCC | C12H13BrN4O
reactant | 3,5-bis(trifluromethyl)phenylboronic acid | 1.000 mmol, 258 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)B(O)O)(F)F | C8H5BF6O2
product | 4-amino-8-[3,5-bis(trifluoromethyl)phenyl]-N-propyl-cinnoline-3-carboxamide | 200 mg, 94% yield | NC1=C(N=NC2=C(C=CC=C12)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(=O)NCCC | C20H16F6N4O
